Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:8]=[C:9]([H:10])[H:11].[H:1][C:2]([H:3])=[C:4][O:5][C:6][H:7]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],-5.83327438663
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4](#[C:7][H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2](=[C:3]([H:5])[H:6])[H:9],-1.452508032
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])=[C:9][H:10],8.24867238045
[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9].[O:1]=[C:2][C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-4.74467041933
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:12].[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10][H:11],5.0142531055
[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4]([H:5])([H:6])[H:7]>>[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[H:13],-6.81285166
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1],3.80680624258
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13][H:14].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13][H:14],-4.11967027058
[H:1][C:2]=[C:3]([H:4])[H:5].[O:6][H:7]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][H:7],-2.5207743932900004
[C:7]([H:8])[H:9].[H:1][O:2][C@:3]([H:4])([C:5]#[C:6])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C@:3]([H:4])([C:5]#[C:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-7.46191858225
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[O:10][H:11]>>[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2],4.6761113854100005
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])#[C:5][C@@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2],2.93882311845
[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12],-1.82964887358
[O:1]=[C:2]=[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])[H:11]>>[O:1]=[C:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11],0.20209786069
[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]#[C:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10],-5.554916134909999
[H:12].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],-1.97726073483
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])[O:5][C:6][C:8][C:9]([H:10])[H:11].[H:7],3.8087497953800007
[C:1].[C:2]([O:3][C:4](=[O:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]([O:3][C:4](=[O:5])[H:6])[C:7]([H:8])([H:9])[H:10],-5.86835098354
[H:1][O:2][C:3]=[C:12]([H:13])[H:14].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14],-4.39036012539
[C:7]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:8][C:9]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][C:8][C:9]([H:10])([H:11])[H:12],-3.3973760313300003
[C:1]#[C:2][C:7]([H:8])([H:9])[H:10].[O:3][C:4]#[C:5][H:6]>>[C:1]=[C:2]([O:3][C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10],-1.0786347951100002
[H:11].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-5.126659763369999
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2],6.224767024019999
[H:1][O:2][C:3][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-3.7543148129800006
[H:1][C:2][C@:3]1([H:4])[C:5]([H:6])[O:7][C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])[C@:8]([O:7][C:5][H:6])([H:9])[C:10]([H:11])([H:12])[H:13],-0.549635324071
[O:1]([C:2][C:3]([H:7])([H:8])[H:9])[H:5].[O:4]=[C:6]>>[O:1]=[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9],-1.8838460616
[C:1]#[C:2][C:3]#[C:4][C:5]#[C:6][H:7]>>[C:1]#[C:2][C:3]#[C:4][C:5]#[C:6].[H:7],4.960005755819999
[C:5]([H:6])#[C:7][H:8].[H:1][C:2]=[C:3]([H:4])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-2.16234419081
[H:1][O:2][C:3][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],-3.86031455672
